US07683073B2
3.0 g of 2-carboxymethyl-benzoic acid were dissolved in 16 ml of fuming nitric acid. 16 ml of ice water was added into the resulting solution after stirred at room temperature for 2 hr, then filtrated to obtain a precipitation, dried in vacuum to obtain 1.99 g of 5-nitro-2-carboxymethyl-benzoic acid.

reactant | 2-carboxymethyl-benzoic acid | 3.0 g | C(=O)(O)CC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | nitric acid | 16 ml | [N+](=O)(O)[O-] | HNO3
product | 5-nitro-2-carboxymethyl-benzoic acid | 1.99 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)CC(=O)O | C9H7NO6
